US09056874B2
a) (±)-2-(Hydroxy(5-methoxy-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of (±)-tert-butyl 4-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (0.3 g, 0.533 mmol) was dissolved in THF (5.33 mL). TBAF (5.34 mL, 5.34 mmol) was added to the solution and the reaction was stirred at 50° C. for 5 hours. The reaction was diluted with ethyl acetate and then with 20 mL of a saturated aq. solution of ammonium chloride. The ethyl acetate layer was separated, washed with water, dried and concentrated. The resulting residue was dissolved in MeOH (4 mL) to which cesium carbonate (0.87 g, 2.67 mmol) was added. The reaction was heated at 50° C. for 1 hour. The reaction was then concentrated and directly purified by flash chromatography (0-10% MeOH in DCM) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.93 (d, J=3.54 Hz, 1H) 10.86 (br. s., 1H) 7.81-7.95 (m, 1H) 7.60 (m) 7.40-7.56 (m) 7.14 (t, J=2.78 Hz, 1H) 6.75 (s, 1H) 6.53-6.62 (m, 1H) 6.19-6.31 (m, 2H) 3.81 (s, 3H) 2.40-2.47 (m, 3H). HRMS calcd. for C19H16N4O2 (M+H)+ 333.1346. found 333.1355.

reactant | (±)-tert-butyl 4-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)O)COCC[Si](C)(C)C)C=C1 | C30H38N4O5Si
reactant | (±)-tert-butyl 4-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.533 mmol, 0.3 g | C(#N)C=1C=CC2=C(N(C(=N2)C(C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)O)COCC[Si](C)(C)C)C1 | C30H38N4O5Si
reactant | TBAF | 5.34 mmol, 5.34 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | cesium carbonate | 2.67 mmol, 0.87 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 5.33 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 4 mL | CO | CH4O
product | (±)-2-(Hydroxy(5-methoxy-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | OC(C1=NC2=C(N1)C=CC(=C2)C#N)C2=C1C=CNC1=C(C=C2OC)C | C19H16N4O2
